US04603138
1-Propylaminocarbonylpiperid-4-one (D.31)
To piperid-4-one (11.8 g) was added n-propyl isocyanate in small portions at room temperature with stirring. After stirring 48 hr the solvent was removed in vacuo, and the residue was treated with diethyl ether, yielding (D.31) (19.1 g, 86%) as a pale yellow oil.

reactant | piperid-4-one | 11.8 g | N1CCC(CC1)=O | C5H9NO
reactant | n-propyl isocyanate | C(CC)N=C=O | C4H7NO
product | 1-Propylaminocarbonylpiperid-4-one | C(CC)NC(=O)N1CCC(CC1)=O | C9H16N2O2
